US08470574B2
L-tert-Leucine (manufactured by Tokyo Kasei Kogyo) (4.7 g) was suspended in glacial acetic acid (manufactured by Nakarai Tesk, 40 mL) and heated at 40 to 50° C. together with addition of thrice molar acetic acid anhydride (manufactured by Nakarai Tesk) thereto whereupon the reaction was conducted. After glacial acetic acid was removed in vacuo, the crude crystals were obtained. After that, the crude crystals were recrystallized from 20% isopropyl alcohol. The precipitate was ground in a mortar and dried to give powder of N-acetyl-L-tert-leucine. Details thereof are mentioned in J. P. Greenstein, Chemistry of Amino Acids, 1961, 3.

reactant | L-tert-Leucine | 4.7 g | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | N-acetyl-L-tert-leucine | C(C)(=O)N[C@@H](C(C)(C)C)C(=O)O | C8H15NO3
